US07759379B2
N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-morpholin-4-yl-acetamide
50 mg N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-chloro-acetamide (raw material, as described above) owere dissolved in 2 ml morpholine and heated for 1 h to 50° C. Subsequently, the mixture was poured on ice and extracted with ethylacetate. The combined organic phases were evaporated to dryness and the residue was purified by flash chromoatography (Silica gel, methylene chloride:methanol=1.98:22.95:5) Yield: 20 mg

reactant | N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-chloro-acetamide | 50 mg | CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(CCl)=O)OC(F)(F)F)=O)CC1=CC=NC=C1)C | C20H18ClF3N4O4
reactant | morpholine | 2 ml | N1CCOCC1 | C4H9NO
product | N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-morpholin-4-yl-acetamide | CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(CN1CCOCC1)=O)OC(F)(F)F)=O)CC1=CC=NC=C1)C | C24H26F3N5O5
